US08138189B2
Step 3: (5-{3-Chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-phenoxy}-2-fluoro-phenoxy)-acetic acid ethyl ester
In analogy to Example 147, step 6, 5-{2-[2-chloro-4-(4-fluoro-3-hydroxy-phenoxy)-phenyl]-1-hydroxy-1-trifluoromethyl-propyl}-1-methyl-1H-pyridin-2-one was reacted with ethylbromoacetate and cesium carbonate to give the title compound as a colorless solid. MS (m/e)=558.2 [M+H+].

reactant | 5-{2-[2-chloro-4-(4-fluoro-3-hydroxy-phenoxy)-phenyl]-1-hydroxy-1-trifluoromethyl-propyl}-1-methyl-1H-pyridin-2-one | ClC1=C(C=CC(=C1)OC1=CC(=C(C=C1)F)O)C(C(C(F)(F)F)(O)C=1C=CC(N(C1)C)=O)C | C22H18ClF4NO4
reactant | ethylbromoacetate | C(C)OC(CBr)=O | C4H7BrO2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
product | (5-{3-Chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-phenoxy}-2-fluoro-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=CC(=C1)OC1=CC(=C(C=C1)C(C(C(F)(F)F)(C1=CN(C(C=C1)=O)C)O)C)Cl)F)=O | C26H24ClF4NO6
